US04332808
A solution of 15 g of 1-methyl-3-(1-methyl-1H-indol-4-yl)-3-piperidinol in 500 ml of 1 N hydrochloric acid was refluxed for 3 hours and was then cooled to room temperature and stirred for 16 hours. The mixture was cooled in an ice bath while adding sodium hydroxide until the mixture was alkaline and the mixture was extracted with ethyl acetate. The organic phase was washed with aqueous sodium chloride solution, dried over magnesium sulfate and evaporated to dryness under reduced pressure. The 13 g of residue was chromatographed over silica gel and eluted with a 6-3-1 cyclohexanechloroform-triethylamine mixture to obtain 8.7 g of 1-methyl-4-(1-methyl-1,2,5,6-tetrahydropyridin-3-yl)-1H-indole.

reactant | 1-methyl-3-(1-methyl-1H-indol-4-yl)-3-piperidinol | 15 g | CN1CC(CCC1)(O)C1=C2C=CN(C2=CC=C1)C | C15H20N2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 1 N, 500 ml | Cl | ClH
product | 1-methyl-4-(1-methyl-1,2,5,6-tetrahydropyridin-3-yl)-1H-indole | 8.7 g | CN1C=CC2=C(C=CC=C12)C=1CN(CCC1)C | C15H18N2
